US05795846
Chloroacetyl chloride (84.8 g) was added, over 20 minutes, to a solution of 2-ethyl-6-methylaniline (67.5 g), glacial acetic acid (230 ml), sodium acetate (anhydrous 110.5 g) in water (200 ml) at such a rate that the reaction temperature did not exceed 10° C. The resulting suspension was then stirred vigorously for 30 minutes at 10° C. (requiring the addition of further quantities of acetic acid and water to maintain fluidity). The suspension was filtered, the resulting solid was air-dried on the filter and was then recrystallised from ethanol/water to yield the N-chloroacetyl-2-ethyl-6-methylaniline as a colourless solid (58.7 g), m.p. 122°-123° C. This product (10.8 g) was dissolved in toluene and added dropwise to a stirred mixture of N-chloroacetyl-2-ethyl-6-methylaniline (21.2 g), polyethyleneglycol-400 (8.0 g), sodium hydroxide (16.0 g in 15 ml water) and toluene at such a rate to maintain the reaction temperature at 10°-15° C. for 2 hours.

reactant | Chloroacetyl chloride | 84.8 g | ClCC(=O)Cl | C2H2Cl2O
reactant | 2-ethyl-6-methylaniline | 67.5 g | C(C)C1=C(N)C(=CC=C1)C | C9H13N
reactant | acetic acid | 230 ml | C(C)(=O)O | C2H4O2
reactant | sodium acetate | 110.5 g | C(C)(=O)[O-].[Na+]
solvent | water | 200 ml | O | H2O
product | N-chloroacetyl-2-ethyl-6-methylaniline | 58.7 g | ClCC(=O)NC1=C(C=CC=C1C)CC | C11H14ClNO
